US05760050
3-Benzyl-9-hydroxy-8-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one hydrochloride
Prepared by the procedure of Example 1 from 3-methyl-4-hydroxyphenol and ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride. The crude product was converted to the hydrochloride salt. Yield 28%; mp 283°-289° C.

reactant | 3-methyl-4-hydroxyphenol | CC=1C=C(C=CC1O)O | C7H8O2
reactant | ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC
product | 3-Benzyl-9-hydroxy-8-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one hydrochloride | Yield 28% | Cl.C(C1=CC=CC=C1)N1CC2=C(CC1)C=1C=C(C(=CC1OC2=O)C)O | InChI=1S/C20H19NO3.ClH/c1-13-9-19-16(10-18(13)22)15-7-8-21(12-17(15)20(23)24-19)11-14-5-3-2-4-6-14;/h2-6,9-10,22H,7-8,11-12H2,1H3;1H
